Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
1.  SMA axis arteriograms (___) 
2.  Selective SMA arteriogram (___)  
3.  Coil embolization of distal jejunal branch off the superior 
mesenteric artery. (___)  

 
History of Present Illness:
___ y/o F with history of DM, HTN presented to ___ on ___ 
with melana.

Pt presented with a hgb 7.6, admitted to ICU, and was seen by GI 
on day of admission and underwent EGD showing 4 ulcerations in 
the atrum, one of which was cauterized with BICAP.  Pt was 
transfused 2 units pRBC.  Overnight, pt noted to have episodes 
of heart block for which cardiology was consulted and 
recommended PPM for which thoracic surgery was consulted and pt 
now s/p PPM and pt transferred to floor, repeat hgb was up to 
___ yesterday around noon.  

Pt continued to have melana throughout the afternoon of ___ and 
repeat hgb 7.0 about 6 hours later for which pt was transferred 
back to ICU.  A repeat hgb 6.4 about 1.5 hours later and pt was 
hypotensive to SBP ___ (in the setting of getting Lisinopril 
earlier in morning). Due to concern for active bleeding, pt 
given additional IV access, started on IVF, and subsequently 
transfused another 2 units pRBC. GI was notified and pt 
underwent another emergent EGD with no active bleeding 
identified. Surgery was consulted and recommend a bleeding scan 
which showed an active GI bleed either from proximal small bowel 
or descending colon. Results discussed with surgery who 
recommended transfer to ___ medical facility for 
consideration of angiography and embolization. On return from 
the scan, pt became combative and agitated, was given 2mg IV 
Haldol and had another episode of melena and was started on 
another unit of pRBC for a total of 5.  Agitation was thought 
possibly secondary to recent sedation medications and multiple 
transfers between floor and ICU.  Family was updated.    

On arrival to the MICU, pt was alert but disoriented to place 
and time. She appeared confused with inattention. She denied any 
other complaints including CP, SOB, dizziness, lightheadedness, 
or abdominal pain.

 
Past Medical History:
DM
HTN
HLD

 
Social History:
___
Family History:
Unremarkable
 
Physical Exam:
Admission exam:
General- comfortable appearing, alert, elderly Caucasian woman 
in NAD 
HEENT- MM dry, EOMI, PERRL 
Neck- supple 
CV- RRR, no m/g/r 
Lungs- CTAB on anterolateral exam, no w/r/r  
Abdomen- s, nd, nt 
GU- no foley 
Ext- warm, well perfused,  
Neuro- AAOx person, hospital

 
Pertinent Results:
Admission labs:
___ 04:55AM BLOOD WBC-13.6* RBC-3.18* Hgb-9.6* Hct-28.6* 
MCV-90 MCH-30.1 MCHC-33.6 RDW-14.6 Plt ___
___ 04:55AM BLOOD Neuts-86.0* Lymphs-9.8* Monos-3.6 Eos-0.3 
Baso-0.2
___ 04:55AM BLOOD ___ PTT-27.4 ___
___ 04:07AM BLOOD ___ 04:55AM BLOOD Glucose-175* UreaN-28* Creat-0.8 Na-141 
K-4.0 Cl-112* HCO3-25 AnGap-8
___ 04:55AM BLOOD Calcium-7.2* Phos-2.2* Mg-1.5*
___ 04:55AM BLOOD CK-MB-4 cTropnT-<0.01

Discharge labs:
___ 05:35AM BLOOD WBC-5.9 RBC-3.29* Hgb-9.6* Hct-28.1* 
MCV-86 MCH-29.2 MCHC-34.2 RDW-16.5* Plt ___
___ 05:35AM BLOOD Glucose-119* UreaN-10 Creat-0.7 Na-141 
K-3.6 Cl-109* HCO3-24 AnGap-12
___ 05:35AM BLOOD Calcium-8.3* Phos-2.1* Mg-1.6

Micro:
___ 4:55 am MRSA SCREEN      Source: Nasal swab. 
                            **FINAL REPORT ___
   MRSA SCREEN (Final ___:    No MRSA isolated.

___ 7:48 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ 5:35 am SEROLOGY/BLOOD
   HELICOBACTER PYLORI ANTIBODY TEST (Pending):

IMAGING/STUDIES:
CTA abdomen ___:
1.  Active extravasation in a jejunal branch of small bowel.  
Also, a large amount of hyperdense material throughout the colon 
is consistent with blood. 
2.  Incidental 1.7 cm right adnexal cyst.  Given this patient is 

postmenopausal, followup pelvic ultrasound is recommended in 12 
months. 
3.  Scattered jejunal diverticula. 
4.  Sigmoid diverticulosis.  No active extravasation of the 
colon. 
5.  Severe stenosis of one of the left renal arteries. 
6.  Incidental splenic hypodensities are statistically likely to 
be benign. 

Mesenteric angiogram ___:
SMA arteriogram demonstrated active extravasation from a distal 
jejunal 
branch.  Coil embolization of the offending artery with good 
angiographic 
result and no evidence of contrast extravasation post coiling. 

EKG:
Probable sinus rhythm. Low limb lead voltage. Marked left axis 
deviation. 
Possible left anterior fascicular block. Right bundle-branch 
block. No 
previous tracing available for comparison.  
 
Brief Hospital Course:
___ with h/o HTN, HLD, DM not on meds, who was initially 
admitted to ___ with UGIB, transferred here for continued 
melena in the setting of positive tagged RBC scan.
 
# GI bleed / Acute blood loss anemia: Pt presented on ___ to ___ 
___ with melena, had an EGD on admission showing 4 
ulcerations in the antrum with signs of prior active bleeding. 
Lesions were cauterized. She was stable overnight but began 
having melena again the night of ___ into ___. She had a 
tagged RBC scan which showed bleeding from either the proximal 
small bowel or descending colon and was transferred to ___ for 
___ embolization. On arrival the morning of ___ she continued to 
have large volume maroon stools repeatedly with a Hct drop from 
28 to 23. She was briefly hypotensive but did not require 
pressors, BPs improved with IVF. She received 4 units pRBCs and 
was taken immediately to ___ for embolization. A distal jejunal 
branch of the SMA was successfully embolized on ___. Her melena 
resolved, and her hematocrits remained stable. She was called 
out of the ICU on ___.  On the medical ward she was 
hemodynamicaly stable.  Her Hgb/Hct were monitored and remained 
stable.  A h.pylori test was sent and was pending as of 
discharge.   In consultation with ___, she was discharged to home 
with planned follow-up with gastroenterologist at ___.

# Complete heart block: s/p PPM placement at ___ on ___ 
for asymptomatic epsisodes of CHB lasting approx 4 seconds. Home 
diltiazem was held. No events on telemetry at ___.  Patient 
was set up with appointment with cardiac surgeon who placed the 
PPM on ___.

# AMS: Resolved.  Pt reportedly delirious after her tagged RBC 
scan at the OSH, thought to be due to sedating medications plus 
frequent floor-ICU transfers. Received 2mg IV haldol for 
delirium at OSH.  She remained oriented at ___ with no 
agitation or neuro deficits.

# Troponin elevation: Resolved. Noted at ___ on ___.  Trop 
and MB was negative here on ___. Elevation was likely demand 
ischemia in setting of GI bleed.  ECG on ___ at ___ was 
without ischemic changes.

# HTN: Held home anti-hypertensives in the setting of GI bleed.  
Patient remained normotensive while on medical ward.  She was 
discharged off her home anti-hypertensives.

# Diabetes mellitus: managed with insulin sliding scale while 
inpatient.

# HLD: Was continued on home simvastatin

#Adnexal  cyst:  CT abdomen/pelvis noted an incidental 1.7 cm 
right adnexal cyst.  Radiology recommending follow up pelvic 
ultrasound in one year for surveillance. 

TRANSITIONAL ISSUES:
[  ] f/up h.pylori results that are pending at discharge
[ ] ] f/up with PC and GI at ___ 
[  ] monitor blood pressure and consider restarting 
antihypertensives  (HCTZ, lisinopril, diltiazem) if necessary
[  ] f/up with cardiac surgeon Dr. ___ at ___ on 
___ for hx of heart block 
[  ] pelvic u/s in one year given CT finding of adnexal cyst

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 240 mg PO DAILY 
2. lisinopril-hydrochlorothiazide ___ mg oral daily 
3. Simvastatin 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleed s/p coil embolization of distal jejunal branch of SMA
Complete heart block s/p permanent pacemaker placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your admisstion to ___ 
___.  You were transferred here from 
___ for further management of you gastrointestinal bleed.  
You received blood transfusion due to low blood counts.  In 
addition you were seen by the interventional radiologists who 
performed a procedure to coil a bleeding vessel which was 
responsible for your intestinal bleed.  Since that procedure 
your blood counts have remained stable, as have your other vital 
signs.  It was determined you were safe to discharge to home.  
You have appointments set up with your primary care physician 
and ___ gastroenterologist to follow-up on your recent 
hospitalization.  In addition, you had a pacemaker placed at ___ 
___ due to an irregular heart beat.  We have set up a 
follow-up appointment for you with the cardiac surgeon who 
placed the pacemaker.  Your blood pressures were normal during 
your stay ont the medical ward, so you were not given your home 
blood pressure medications.  You should not restart those until 
you see your primary care physician.  You should keep your 
appointments as scheduled and take your medications as 
prescribed.  Should you develop chest pain, abdominal pain, or 
have more bloody bowel movements or dark tarry stools, you 
should seek evaluation at a medical facility or your nearest 
emergency department.
 
Followup Instructions:
___